US08119666B2
N-{3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-naphthalen-2-yl}-methanesulfonamide is prepared analogously to Example 4, Steps B and C, starting with 5-[4-(3-aminonaphthalen-2-ylmethyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and methanesulfonyl chloride: MS (M−H)−=460.

reactant | 5-[4-(3-aminonaphthalen-2-ylmethyl)-2-benzyloxyphenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | NC=1C(=CC2=CC=CC=C2C1)CC1=CC(=C(C=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C31H35N3O4SSi
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-{3-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-naphthalen-2-yl}-methanesulfonamide | OC=1C=C(CC=2C(=CC3=CC=CC=C3C2)NS(=O)(=O)C)C=CC1N1S(NC(C1)=O)(=O)=O | C20H19N3O6S2
